US08242133B2
A mixture of 0.28 g of 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole, 0.11 g of 4-methylpyrazole, 0.55 g of potassium carbonate and 3 ml of DMF was stirred while heating at 60° C. for 1.5 hours. To the mixture, 0.05 g of 4-methylpyrazole was added and further stirred while heating at 60° C. for 1.5 hours. Then, the reaction mixture was cooled to room temperature. Water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.25 g of 2-[3-(4-methylpyrazole-1-yl)pyridin-4-yl]-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 61”).

reactant | 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.28 g | FC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6F4N2O
reactant | 4-methylpyrazole | 0.11 g | CC=1C=NNC1 | C4H6N2
reactant | potassium carbonate | 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | 4-methylpyrazole | 0.05 g | CC=1C=NNC1 | C4H6N2
solvent | Water | O | H2O
product | 2-[3-(4-methylpyrazole-1-yl)pyridin-4-yl]-5-(trifluoromethyl)benzoxazole | 0.25 g | CC=1C=NN(C1)C=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C17H11F3N4O
